US07777035B2
Synthesis of 1-[4-(4-chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-(4-methoxy-pyrazolo[3,4-d]pyrimidine-1-yl)-ethanone
To a solution of 1-[4-(4-chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-(4-chloro-pyrazolo[3,4-d]pyrimidine-1-yl)-ethanone (0.024 Mmol, 1 eq.) in 1 mL of MeOH was added solid potassium carbonate (excess), the resultant mixture was heated at 70° C. for 30 minutes, then filtered and dried under vacuum. The crude product was purified by HPLC to provide the desired product as a white powder: 1H NMR (400 MHz, CDCl3) δ 8.90 (s, 1H), 8.07 (s, 1H), 7.22 (d, 1H), 6.50 (d, 1H), 6.44 (dd, 1H), 5.29 (s, 2H), 3.90 (s, 3H), 3.81 (m, 4H), 3.19 (m, 4H), 2.25 (s, 3H). LCMS observed for (M+H)+: 418.9.

reactant | 1-[4-(4-chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-(4-chloro-pyrazolo[3,4-d]pyrimidine-1-yl)-ethanone | 0.024 Mmol, 1 eq. | ClC1=C(C=C(C=C1)N1CCN(CC1)C(CN1N=CC=2C1=NC=NC2Cl)=O)OC | C18H18Cl2N6O2
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | MeOH | 1 mL | CO | CH4O
product | 1-[4-(4-chloro-3-methoxy-phenyl)-piperazin-1-yl]-2-(4-methoxy-pyrazolo[3,4-d]pyrimidine-1-yl)-ethanone | ClC1=C(C=C(C=C1)N1CCN(CC1)C(CN1N=CC=2C1=NC=NC2OC)=O)OC | C19H21ClN6O3
